US04324796
(c) 4-Phenylbutylmalonic acid monoethyl ester
A solution of 17.8 g of potassium hydroxide in 200 ml of ethanol is added dropwise to 91 g of 4-phenylbutylmalonic acid diethyl ester in 200 ml of ethanol at room temperature (20° C.). The mixture is stirred for 24 hours and substantially concentrated in vacuo; the residue is taken up in 500 ml of water, and the aqueous mixture is extracted twice with 100 ml of diethyl ether each time. The aqueous phase is acidified with concentrated hydrochloric acid (while cooling with ice) and extracted 3 times with 200 ml of diethyl ether each time; after drying over sodium sulfate, the organic phase is concentrated. 72.8 g of a viscous oil remain.

reactant | potassium hydroxide | 17.8 g | [OH-].[K+]
reactant | 4-phenylbutylmalonic acid diethyl ester | 91 g | C(C)OC(C(C(=O)OCC)CCCCC1=CC=CC=C1)=O | C17H24O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-Phenylbutylmalonic acid monoethyl ester | C(C)OC(C(C(=O)O)CCCCC1=CC=CC=C1)=O | C15H20O4
